US04785010
1-(Aminocarbonyl-methyl)-2-(phthalimido-methyl)-5-methyl-pyrrole
5.2 g (0.02 mol) of 6-phthalimido-2,5-hexanedione, 2,3 g (0.02 mol) of glycine amide hydrochloride and 1.7 g (0.02 mol) sodium acetate are stirred in 70 ml of acetic acid at 80° C. for 3 hours and the mixture is worked up as in Example 1.

reactant | 6-phthalimido-2,5-hexanedione | 0.02 mol, 5.2 g | C1(C=2C(C(N1CC(CCC(C)=O)=O)=O)=CC=CC2)=O | C14H13NO4
reactant | glycine amide hydrochloride | 0.02 mol, 2,3 g | Cl.NCC(=O)N
reactant | sodium acetate | 0.02 mol, 1.7 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | 1-(Aminocarbonyl-methyl)-2-(phthalimido-methyl)-5-methyl-pyrrole | NC(=O)CN1C(=CC=C1C)CN1C(C=2C(C1=O)=CC=CC2)=O | C16H15N3O3
